US08580781B2
6. Preparation of 1-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]-phenyl}ethanol
3.114 g of 1-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}ethanone (10.4 mmol) are dissolved in 30 ml of abs. ethanol in a 100 ml one-necked flask, and 0.394 g of sodium borohydride (10.4 mmol) is subsequently added in portions with ice/water cooling and stirring, and the reaction batch is stirred at RT for a further 20 h. For work-up, the reaction mixture is diluted with 50 ml of dichloromethane and shaken 2× against water, and the dichloromethane phase is evaporated to dryness and purified by chromatography (silica gel/DCM/MeOH 9:1);

reactant | 1-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}ethanone | 10.4 mmol, 3.114 g | CN(CCCOC=1C=NC(=NC1)C=1C=C(C=CC1)C(C)=O)C | C17H21N3O2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | 10.4 mmol, 0.394 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]-phenyl}ethanol | CN(CCCOC=1C=NC(=NC1)C=1C=C(C=CC1)C(C)O)C | C17H23N3O2
